US04409214
A solution of benzhydryl 7-[2-(2-formamidothiazol-5-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer)(2.7 g) in anisole (3.5 ml) and trifluoroacetic acid (10.8 ml) was stirred under ice-cooling for 15 minutes. The reaction mixture was poured into diisopropyl ether (140 ml), followed by stirring for 10 minutes. The precipitated solid was collected by filtration, washed with diisopropyl ether and then dried to give 7-[2-(2-formamidothiazol-5-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer)(2.0 g), mp 147° C. (dec.).

reactant | benzhydryl 7-[2-(2-formamidothiazol-5-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 2.7 g | C(=O)NC=1SC(=CN1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C29H25N5O6S2
reactant | diisopropyl ether | 140 ml | C(C)(C)OC(C)C | C6H14O
solvent | anisole | 3.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 10.8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-[2-(2-formamidothiazol-5-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 2.0 g | C(=O)NC=1SC(=CN1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC | C16H15N5O6S2
